US03956297
In the manner given in Example 2, 7-chloro-[(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino]acetaldehyde dimethyl acetal is treated with concentrated sulfuric acid to give 7-chloro-9H-dibenzo[b,f]imidazo[1,2-d][1,4]diazepine.

reactant | 7-chloro-[(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino]acetaldehyde dimethyl acetal | COC(CNC=1C2=C(NC3=C(N1)C=CC(=C3)Cl)C=CC=C2)OC | C17H18ClN3O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 7-chloro-9H-dibenzo[b,f]imidazo[1,2-d][1,4]diazepine | ClC=1C=CC2=C(NC3=C(C=4N2C=CN4)C=CC=C3)C1 | C15H10ClN3
